Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / azithromycin / 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Leg Pain 
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ y/o pleasant M h/o prostate CA s/p radical prostatectomy with
suprapubic tube presented to OSH with left leg pain and found to
have extensive ___ transferred to ___ for possible vascular
surgery evaluation and consideration of thrombectomy. Seen by ___
physicians and thought that patient likely would not need
thrombectomy given excellent pulses and DVT below the iliacs but
extending to femoral veins. and could have non-urgent vascular
consultation and remain on heparin gtt. Patient tells me he 
first
noticed what he felt as muscle pains 4 days prior to admission
that he initially ignored as he some times gets leg cramps. The
morning prior to admission he noticed his left leg was swollen
and mildly discolored and he proceeded to ___. There 
given
his DVT was partially occlusive in the left common femoral vein.
Occlusive DVT in the left femoral, popliteal, posterior tibial,
and peroneal veins. Patent left external iliac vein. He denies
shortness of breath, chest pain, fevers chills, family history 
of
clotting diseases. He has never had DVT/PE he in the past. He 
was
continued on heparin gtt and transferred to the floor with 
stable
vital signs.
 
Past Medical History:
Prostatectomy for prostate cancer now with suprapubic tube 
HTN
 
Social History:
___
Family History:
___: Reviewed and found to be non-contributory. No history of 
cancer or clotting disorders. 
 
Physical Exam:
Admission Exam: 
Afebrile and vital signs stable (reviewed in bedside record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, ___ SEM, no rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: Left leg swollen compared to contralateral side 
with
bilateral bounding ___ pulses 2+. No palpable cord. Some
tenderness in left mid thigh to palpation. Good capillary refill
bilaterally. 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. Cn II-XII intact.  ___ strength throughout.  
Psychiatric: pleasant, appropriate affect
GU: Suprapubic Catheter in place 

 Exam:  
97.7
PO 138 / 81 61 18 95 RA 
left calf wrapped in ace compression
intact dp pulse
regular s1 and s2

 
Pertinent Results:
___ 08:10AM BLOOD WBC-6.6 RBC-4.43* Hgb-13.7 Hct-41.2 
MCV-93 MCH-30.9 MCHC-33.3 RDW-13.0 RDWSD-44.6 Plt ___
___ 07:30AM BLOOD WBC-6.1 RBC-4.38* Hgb-13.6* Hct-41.1 
MCV-94 MCH-31.1 MCHC-33.1 RDW-13.0 RDWSD-45.3 Plt ___
___ 04:15AM BLOOD WBC-6.1 RBC-3.99* Hgb-12.5* Hct-37.0* 
MCV-93 MCH-31.3 MCHC-33.8 RDW-13.2 RDWSD-45.0 Plt ___
___ 10:00PM BLOOD WBC-7.4 RBC-4.28* Hgb-13.1* Hct-39.5* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-13.2 RDWSD-44.9 Plt ___
___ 10:00PM BLOOD Neuts-74.6* Lymphs-15.4* Monos-7.7 
Eos-1.6 Baso-0.3 Im ___ AbsNeut-5.52 AbsLymp-1.14* 
AbsMono-0.57 AbsEos-0.12 AbsBaso-0.02
___ 08:10AM BLOOD ___ PTT-36.0 ___
___ 10:00PM BLOOD ___ PTT-150* ___
___ 07:30AM BLOOD Glucose-117* UreaN-20 Creat-1.1 Na-137 
K-3.9 Cl-99 HCO3-26 AnGap-16
___ 04:15AM BLOOD Glucose-199* UreaN-21* Creat-1.2 Na-135 
K-3.3 Cl-97 HCO3-26 AnGap-15
___ 10:00PM BLOOD Glucose-120* UreaN-22* Creat-1.1 Na-133 
K-4.0 Cl-95* HCO3-22 AnGap-20
___ 07:30AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1

___:
 IMPRESSION:
     1. Partially occlusive DVT in the left common femoral vein.
     Occlusive DVT in the left femoral, popliteal, posterior 
tibial, and
     peroneal veins.
     2. Patent left external iliac vein.
     3. No evidence of deep venous thrombosis in the right lower 
extremity
     veins.
 
Brief Hospital Course:
 A/P: Pt is a ___ y.o man with h.o prostate ca s/p radical
prostatectomy with resultant suprapubic catheter who presents
with extensive DVT. 

#acute extensive DVT, L.leg-pt with s/p radiation and
prostatectomy for prostate CA. Reports relatively immobile since
suprapubic catheter placed  ___ but is still active fairly 
active, chopping wood etc. Given extensive DVT noted on 
ultrasound, he was referred to ___ for vascular surgery 
consultation and consideration of intervention. The vascular 
surgery team did not recommend any surgical procedure or 
intervention but did recommend anticoagulation, leg elevation, 
and to wear TEDS as much as possible for ___ year.  Pt will need 
at least 3month course of anticoagulation. Will plan to tx with 
lovenox for now given history of malignancy. Final course
to be determined with more discussion with PCP and new primary 
oncologist. Pt aware he needs to establish care with a new 
oncologist and reports that he has been referred to one by his 
urologist. He is considering follow up at ___. Unclear if 
this is a provoked event due to relative immobility, but will 
need to consider evaluation for tumor recurrence and to ensure 
pt is up to date with age appropriate screening. 

#HTN-restarted HCTZ and lisinopril 
#GERD-continued PPI

Transitional care
1.ongoing discussiong of length of anticoagulation
2.establish care with new oncologist to ensure up to date with 
screening and evaluation given history of prostate cancer and to 
help with decision making to determine length of 
anticoagulation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Lisinopril 20 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Magnesium Oxide 280 mg PO BID 
6. LORazepam 0.5 mg PO QHS:PRN anxiety sleep 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLE DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of L.leg pain and swelling and 
found to have a large blood clot (DVT). For this, you were 
started on a blood thinner medication (lovenox) which you will 
need to continue for at least 3 months. The course of this to be 
determined with consultation from an oncologist. Please be sure 
to wear your ___ stocking as much as possible for ___ year per the 
vascular surgery team recommendations. 
 
Followup Instructions:
___